### PR TITLE
Optimizing Model Categories

### PR DESCRIPTION
**Pull request by DenSinH**
For fixing #1855 

I have yet to test how long it takes to `make ModelCategories` from scratch on my 8 year old laptop through WSL, but I believe it is within a reasonable time on my 8 year old laptop with:
- i5 7200U quad core @ 2.5GHz
- 8GB 2133MHz memory
I hope the CLI is faster than this extremely bottlenecked setup, but who knows...

The LNWFSMonoidalStructure (~5min), LNWFSCocomplete.v, LNWFSClosed.v and LNWFSSmallnessReduction.v files 
still seem to take the longest, but this should be enough to compile within the time limit I would think.
It kind of dazzles me though, since on Windows, and with a slightly older version of UniMath, and Coq 8.17
the LNWFSClosed and LNWFSSmallnessReduction files take up literally half a minute. What makes these 
files different is that there are two proofs where I try to show an LNWFS structure `L -->[mor] L'` on `mor`,
given an LNWFS structure `L -->[mor'] L'` for `mor' = mor`, so to say. I used to use a rewrite in the proof,
which seems to cause the slowness. Now I abstracted that to an opaque proof, which seems to speed up the 
process slightly, but it is still pretty slow... 

I am not sure if there is already a CLI check for the ModelCategories package, but I would like to know if the
files compile properly in the GitHub CLI as well. Preferably this should happen kind of soon, since I am in the 
process of writing an article on this theory based on my thesis, supervised by Paige North, and it would be very
valuable if the theory is (properly) integrated into the UniMath library.

Strategies for improving the compile times include sectioning and adding Context variables, splitting up some proofs, making certain terms Opaque within the file and shortening some proofs. I will work on it a bit more tomorrow and get back to it in this PR.

### CODE REVIEW

**Comment by DenSinH** [comment]
It just finished a build, it takes ~21 minutes for a clean build on Ubuntu through WSL, with Coq 8.18.0 on my old laptop. Before the optimizations it took about 3-4 hours with the same setup. Is it possible to try it through the GH CI?

**Comment by rmatthes** [comment]
@DenSinH What do you mean when asking to try compilation through CI? The files of the package ModelCategories are being compiled with the current setup.

**Comment by DenSinH** [comment]
Ah, what CI check are they under?

**Comment by rmatthes** [comment]
When I skim through the check with latest Coq on Ubuntu, I see quite some file names mentioned.

**Comment by rmatthes** [comment]
> Ah, I see them under the Build UniMath check, but before they were triggering a timeout right?

They triggered a timeout for the Coq developers. Not for our present UniMath CI.

**Comment by rmatthes** [comment]
This means that if the present PR is satisfying, also Coq CI could be reverted to normal.

**Comment by nmvdw** [comment]
This PR is a significant improvement. In previous PRs, it took around 110 minutes for the CI build of UniMath to succeed, while this PR only needed 85 minutes. Compare this to:

https://github.com/UniMath/UniMath/pull/1857 (113 to 155 minutes)
https://github.com/UniMath/UniMath/pull/1849 (around 80 minutes)

I would like to do some local experiments though and check how long it takes for the files `LNWFSClosed` and `LNWFSSmallnessReduction` to compile. Otherwise, I approve merging this.

**Review by nmvdw — APPROVED** [review]

File: UniMath/ModelCategories/Generated/LNWFSClosed.v [hunk 1]
```diff
@@ -73,16 +73,24 @@ Context {C : category}.
...
     (_,, @Ff_monoidal C).
-
+    
 Context {g : graph}.
 Context (H : is_connected g).
 Context (v0 : vertex g).
 Context (FfCC := λ d, ColimFfCocone CC d H v0).
+Context (A : Ff_mon).
+
+Opaque LNWFS_tot_lcomp.
```
Comment (nmvdw) [inline UniMath/ModelCategories/Generated/LNWFSClosed.v:83]: Should these be opaque everywhere (i.e., should their definition have been a `Qed`) or only in this file?

**Review by nmvdw — COMMENTED** [review]
I see some (unnecessary) spaces/tabs being added in this PR.

**Comment by DenSinH** [comment]
I'm planning to do some more work on it today as well, first thing is to run make ModelCategories and to find out how long each file takes. I'll post the results soon. Any way to `make clean` but only for files actually in the ModelCategories package?

**Comment by DenSinH** [comment]
[out.log](https://github.com/UniMath/UniMath/files/14507039/out.log)


I guess the most relevant is this section:
```
[2024-03-06 09:26:47] COQC UniMath/ModelCategories/Examples.v
[2024-03-06 09:28:10] COQC UniMath/CategoryTheory/Monoidal/CategoriesOfMonoids.v
[2024-03-06 09:28:11] COQC UniMath/ModelCategories/Generated/FFMonoidalStructure.v
[2024-03-06 09:28:19] COQC UniMath/ModelCategories/Generated/LNWFSHelpers.v
[2024-03-06 09:28:21] COQC UniMath/CategoryTheory/Monoidal/Displayed/WhiskeredDisplayedBifunctors.v
[2024-03-06 09:28:23] COQC UniMath/CategoryTheory/DisplayedCats/Projection.v
[2024-03-06 09:28:24] COQC UniMath/CategoryTheory/Monoidal/Displayed/Monoidal.v
[2024-03-06 09:28:29] COQC UniMath/CategoryTheory/Monoidal/Structure/Symmetric.v
[2024-03-06 09:28:32] COQC UniMath/CategoryTheory/Monoidal/Functors.v
[2024-03-06 09:28:37] COQC UniMath/CategoryTheory/Monoidal/Displayed/TotalMonoidal.v
[2024-03-06 09:28:38] COQC UniMath/ModelCategories/Generated/LNWFSMonoidalStructure.v
[2024-03-06 09:34:06] COQC UniMath/ModelCategories/Generated/LNWFSCocomplete.v
[2024-03-06 09:36:04] COQC UniMath/ModelCategories/Generated/LNWFSClosed.v
[2024-03-06 09:36:15] COQC UniMath/ModelCategories/Generated/GenericFreeMonoid.v
[2024-03-06 09:36:20] COQC UniMath/ModelCategories/Generated/GenericFreeMonoidSequence.v
[2024-03-06 09:36:28] COQC UniMath/ModelCategories/Generated/LNWFSSmallnessReduction.v
[2024-03-06 09:36:43] COQC UniMath/ModelCategories/Generated/OneStepMonad.v
[2024-03-06 09:37:05] COQC UniMath/ModelCategories/Generated/OneStepMonadSmall.v
[2024-03-06 09:37:08] COQC UniMath/ModelCategories/Generated/SmallObjectArgument.v
[2024-03-06 09:37:09] COQC UniMath/ModelCategories/All.v
[2024-03-06 09:37:10] make[1]: Leaving directory '/home/dennis/UniMathDenSinH'
```
ModelCategories/Generated/LNWFSMonoidalStructure.v takes up the most with ~5:30 and the rest is all under 2 minutes

File: UniMath/ModelCategories/Generated/LNWFSClosed.v (hunk 1 above)
Comment (DenSinH) [reply UniMath/ModelCategories/Generated/LNWFSClosed.v:83]: They should not be opaque everywhere, as they define what the monoidal structure is on the LNWFS category. I would imagine a user might want to use this more closely.

Comment (nmvdw) [reply UniMath/ModelCategories/Generated/LNWFSClosed.v:83]: That makes sense, then it is better to manage the opacity like this.

**Comment by nmvdw** [comment]
> [out.log](https://github.com/UniMath/UniMath/files/14507039/out.log)
> 
> I guess the most relevant is this section:
> 
> ```
> [2024-03-06 09:26:47] COQC UniMath/ModelCategories/Examples.v
> [2024-03-06 09:28:10] COQC UniMath/CategoryTheory/Monoidal/CategoriesOfMonoids.v
> [2024-03-06 09:28:11] COQC UniMath/ModelCategories/Generated/FFMonoidalStructure.v
> [2024-03-06 09:28:19] COQC UniMath/ModelCategories/Generated/LNWFSHelpers.v
> [2024-03-06 09:28:21] COQC UniMath/CategoryTheory/Monoidal/Displayed/WhiskeredDisplayedBifunctors.v
> [2024-03-06 09:28:23] COQC UniMath/CategoryTheory/DisplayedCats/Projection.v
> [2024-03-06 09:28:24] COQC UniMath/CategoryTheory/Monoidal/Displayed/Monoidal.v
> [2024-03-06 09:28:29] COQC UniMath/CategoryTheory/Monoidal/Structure/Symmetric.v
> [2024-03-06 09:28:32] COQC UniMath/CategoryTheory/Monoidal/Functors.v
> [2024-03-06 09:28:37] COQC UniMath/CategoryTheory/Monoidal/Displayed/TotalMonoidal.v
> [2024-03-06 09:28:38] COQC UniMath/ModelCategories/Generated/LNWFSMonoidalStructure.v
> [2024-03-06 09:34:06] COQC UniMath/ModelCategories/Generated/LNWFSCocomplete.v
> [2024-03-06 09:36:04] COQC UniMath/ModelCategories/Generated/LNWFSClosed.v
> [2024-03-06 09:36:15] COQC UniMath/ModelCategories/Generated/GenericFreeMonoid.v
> [2024-03-06 09:36:20] COQC UniMath/ModelCategories/Generated/GenericFreeMonoidSequence.v
> [2024-03-06 09:36:28] COQC UniMath/ModelCategories/Generated/LNWFSSmallnessReduction.v
> [2024-03-06 09:36:43] COQC UniMath/ModelCategories/Generated/OneStepMonad.v
> [2024-03-06 09:37:05] COQC UniMath/ModelCategories/Generated/OneStepMonadSmall.v
> [2024-03-06 09:37:08] COQC UniMath/ModelCategories/Generated/SmallObjectArgument.v
> [2024-03-06 09:37:09] COQC UniMath/ModelCategories/All.v
> [2024-03-06 09:37:10] make[1]: Leaving directory '/home/dennis/UniMathDenSinH'
> ```
> 
> ModelCategories/Generated/LNWFSMonoidalStructure.v takes up the most with ~5:30 and the rest is all under 2 minutes

You used `make`, I assume? So, only 1 file gets compiled simultaneously?

**Comment by DenSinH** [comment]
> > [out.log](https://github.com/UniMath/UniMath/files/14507039/out.log)
> > I guess the most relevant is this section:
> > ```
> > [2024-03-06 09:26:47] COQC UniMath/ModelCategories/Examples.v
> > [2024-03-06 09:28:10] COQC UniMath/CategoryTheory/Monoidal/CategoriesOfMonoids.v
> > [2024-03-06 09:28:11] COQC UniMath/ModelCategories/Generated/FFMonoidalStructure.v
> > [2024-03-06 09:28:19] COQC UniMath/ModelCategories/Generated/LNWFSHelpers.v
> > [2024-03-06 09:28:21] COQC UniMath/CategoryTheory/Monoidal/Displayed/WhiskeredDisplayedBifunctors.v
> > [2024-03-06 09:28:23] COQC UniMath/CategoryTheory/DisplayedCats/Projection.v
> > [2024-03-06 09:28:24] COQC UniMath/CategoryTheory/Monoidal/Displayed/Monoidal.v
> > [2024-03-06 09:28:29] COQC UniMath/CategoryTheory/Monoidal/Structure/Symmetric.v
> > [2024-03-06 09:28:32] COQC UniMath/CategoryTheory/Monoidal/Functors.v
> > [2024-03-06 09:28:37] COQC UniMath/CategoryTheory/Monoidal/Displayed/TotalMonoidal.v
> > [2024-03-06 09:28:38] COQC UniMath/ModelCategories/Generated/LNWFSMonoidalStructure.v
> > [2024-03-06 09:34:06] COQC UniMath/ModelCategories/Generated/LNWFSCocomplete.v
> > [2024-03-06 09:36:04] COQC UniMath/ModelCategories/Generated/LNWFSClosed.v
> > [2024-03-06 09:36:15] COQC UniMath/ModelCategories/Generated/GenericFreeMonoid.v
> > [2024-03-06 09:36:20] COQC UniMath/ModelCategories/Generated/GenericFreeMonoidSequence.v
> > [2024-03-06 09:36:28] COQC UniMath/ModelCategories/Generated/LNWFSSmallnessReduction.v
> > [2024-03-06 09:36:43] COQC UniMath/ModelCategories/Generated/OneStepMonad.v
> > [2024-03-06 09:37:05] COQC UniMath/ModelCategories/Generated/OneStepMonadSmall.v
> > [2024-03-06 09:37:08] COQC UniMath/ModelCategories/Generated/SmallObjectArgument.v
> > [2024-03-06 09:37:09] COQC UniMath/ModelCategories/All.v
> > [2024-03-06 09:37:10] make[1]: Leaving directory '/home/dennis/UniMathDenSinH'
> > ```
> > 
> > 
> >     
> >       
> >     
> > 
> >       
> >     
> > 
> >     
> >   
> > ModelCategories/Generated/LNWFSMonoidalStructure.v takes up the most with ~5:30 and the rest is all under 2 minutes
> 
> You used `make`, I assume? So, only 1 file gets compiled simultaneously?

yes, the full command I used is 
`make ModelCategories | ts '[%Y-%m-%d %H:%M:%S]' 2>&1 | tee _build/out.log`

**Comment by nmvdw** [comment]
Very nice. This is a significant improvement then.

**Comment by rmatthes** [comment]
Since you are using `make`, you could just look into the last lines of all  the generated `.aux` files in the source directories. They are based on the file name but a dot is prepended. I wonder how to obtain similar data through Dune builds.

File: UniMath/ModelCategories/Generated/LNWFSClosed.v [hunk 2]
```diff
@@ -504,14 +499,14 @@ Defined.
...
   exact (LNWFS_rt_all_colimits CC is_connected_nat_graph 0).
 Defined.
 
-Lemma LNWFS_rt_coeq {C : category} (CC : Colims C):
+Lemma LNWFS_rt_coeq {C : category} (CC : Colims C): 
     rt_preserves_coequalizers (@LNWFS_tot_monoidal C).
 Proof.
   exact (LNWFS_rt_all_colimits CC is_connected_coequalizer_graph (● 0)%stn).
-Defined.
+Defined.
```
Comment (rmatthes) [inline UniMath/ModelCategories/Generated/LNWFSClosed.v:512]: missing newline at end of file, as detected by GitHub - this would break version comparison with Emacs

**Comment by rmatthes** [comment]
I think it is fair to say that the PR fixes the issue it is meant to solve. But please remove the small whitespace pollution that occurred (mentioned by @nmvdw above).

**Comment by DenSinH** [comment]
I think I got all the whitespace. I was looking at LNWFSMonoidalStructure, but I am not sure how I can get that to verify quicker.

**Comment by rmatthes** [comment]
Here, I have the list of source files that took more than 2,5min to compile on my test yesterday with the development version of Coq. While your measurements were on a different computer, one can say that a slow file like the worst in the current PR is in good company. Unfortunately, the file in question is on the critical path in the sense that its compilation time adds to the wall clock time even for a eight core CPU.

```
UniMath/ModelCategories/Generated/.LNWFSSmallnessReduction.aux:0 0 vo_compile_time 2697.109
UniMath/Bicategories/RezkCompletions/.BicatToLocalUnivalentBicat.aux:0 0 vo_compile_time 1062.342
UniMath/Bicategories/Monads/Examples/.Composition.aux:0 0 vo_compile_time 951.267
UniMath/ModelCategories/Generated/.LNWFSClosed.aux:0 0 vo_compile_time 826.911
UniMath/Bicategories/DisplayedBicats/Examples/.DisplayedInserter.aux:0 0 vo_compile_time 653.865
UniMath/Bicategories/PseudoFunctors/Preservation/.BiadjunctionPreserveInserters.aux:0 0 vo_compile_time 646.822
UniMath/ModelCategories/Generated/.LNWFSMonoidalStructure.aux:0 0 vo_compile_time 604.505
UniMath/Bicategories/Monads/.LocalEquivalenceMonad.aux:0 0 vo_compile_time 599.874
UniMath/Bicategories/OtherStructure/.DualityInvolution.aux:0 0 vo_compile_time 587.380
UniMath/CategoryTheory/GrothendieckConstruction/.IsPullback.aux:0 0 vo_compile_time 585.644
UniMath/Bicategories/DisplayedBicats/.DispTransformation.aux:0 0 vo_compile_time 561.635
UniMath/SubstitutionSystems/.LiftingInitial.aux:0 0 vo_compile_time 354.024
UniMath/SubstitutionSystems/SimplifiedHSS/.LiftingInitial.aux:0 0 vo_compile_time 336.221
UniMath/Bicategories/DisplayedBicats/FiberBicategory/.FiberBicategory2.aux:0 0 vo_compile_time 331.827
UniMath/Bicategories/DoubleCategories/Examples/.ProfunctorDoubleBicat.aux:0 0 vo_compile_time 328.163
UniMath/SubstitutionSystems/.ActionBasedStrengthOnHomsInBicat.aux:0 0 vo_compile_time 304.260
UniMath/SubstitutionSystems/.SignatureExamples.aux:0 0 vo_compile_time 299.022
UniMath/Bicategories/DisplayedBicats/.Cartesians.aux:0 0 vo_compile_time 297.916
UniMath/Bicategories/MonoidalCategories/.ActionBasedStrongFunctorsMonoidal.aux:0 0 vo_compile_time 291.428
UniMath/SubstitutionSystems/.LiftingInitial_alt.aux:0 0 vo_compile_time 290.188
UniMath/SubstitutionSystems/SimplifiedHSS/.LiftingInitial_alt.aux:0 0 vo_compile_time 281.253
UniMath/Bicategories/DoubleCategories/Core/.BicatOfDoubleCats.aux:0 0 vo_compile_time 275.116
UniMath/Bicategories/PseudoFunctors/Examples/.CompositionPseudoFunctor.aux:0 0 vo_compile_time 263.994
UniMath/Bicategories/DisplayedBicats/Examples/.Algebras.aux:0 0 vo_compile_time 232.034
UniMath/SubstitutionSystems/.EquivalenceSignaturesWithActegoryMorphisms.aux:0 0 vo_compile_time 222.219
UniMath/Bicategories/DisplayedBicats/FiberBicategory/.FiberBicategory1.aux:0 0 vo_compile_time 221.587
UniMath/HomologicalAlgebra/.TranslationFunctors.aux:0 0 vo_compile_time 218.546
UniMath/Bicategories/Limits/.EilenbergMooreObjects.aux:0 0 vo_compile_time 215.843
UniMath/Bicategories/DoubleCategories/Core/DoubleFunctor/.Associator.aux:0 0 vo_compile_time 214.557
UniMath/Bicategories/Limits/Examples/.BicatOfEnrichedCatsLimits.aux:0 0 vo_compile_time 214.422
UniMath/HomologicalAlgebra/.MappingCone.aux:0 0 vo_compile_time 188.434
UniMath/CategoryTheory/Monoidal/Examples/.DisplayedCartesianMonoidal.aux:0 0 vo_compile_time 168.027
UniMath/Bicategories/PseudoFunctors/Preservation/.BiadjunctionPreserveProducts.aux:0 0 vo_compile_time 167.578
UniMath/CategoryTheory/DisplayedCats/Examples/.StrictTwoSidedDispCat.aux:0 0 vo_compile_time 167.064
UniMath/ModelCategories/.Examples.aux:0 0 vo_compile_time 165.471
UniMath/Bicategories/DisplayedBicats/.DisplayedUniversalArrow.aux:0 0 vo_compile_time 163.110
UniMath/Bicategories/DisplayedBicats/Examples/.DispBicatOfTwoSidedDispCat.aux:0 0 vo_compile_time 163.932
UniMath/Bicategories/MonoidalCategories/.IdempotencePointedFunctorsWhiskeredMonoidal.aux:0 0 vo_compile_time 158.847
UniMath/AlgebraicTheories/.RepresentationTheorem.aux:0 0 vo_compile_time 156.856
UniMath/Bicategories/MonoidalCategories/.EquivalenceActegoriesAndActions.aux:0 0 vo_compile_time 156.916
UniMath/HomologicalAlgebra/.KAPreTriangulated.aux:0 0 vo_compile_time 152.079
UniMath/CategoryTheory/Profunctors/.Transformation.aux:0 0 vo_compile_time 150.573
```

**Comment by DenSinH** [comment]
I find it surprising that the LNWFSSmallnessReduction.v file takes up almost 45 minutes in your test, whereas it takes only about 2 minutes in the current version in the PR on my (probably much older and slower) setup, and the entire CI build in the actions takes about 1.5 hours. If it is not too much work, could you maybe try and run this test again, just to see how bad the compile times are at this point?

**Comment by rmatthes** [comment]
@DenSinH The figures are about the test yesterday and were meant to indicate that there is a number of slow files that are no longer under development. Later this afternoon, I could re-run the compilation with your PR so as to make the absolute numbers comparable.

**Comment by DenSinH** [comment]
@rmatthes that would be great! I would be very interested to see the results

**Comment by rmatthes** [comment]
I did the experiment with the same setting but the current PR instead of the master branch. I only re-compiled. Here are the measurements in the same format. Only the top element would now qualify for the list posted above, and twenty files in the list have a longer compilation time.
```
UniMath/ModelCategories/Generated/.LNWFSMonoidalStructure.aux:0 0 vo_compile_time 242.097
UniMath/ModelCategories/Generated/.LNWFSCocomplete.aux:0 0 vo_compile_time 112.157
UniMath/ModelCategories/.Examples.aux:0 0 vo_compile_time 83.081
UniMath/ModelCategories/Generated/.OneStepMonad.aux:0 0 vo_compile_time 25.676
UniMath/ModelCategories/Generated/.LNWFSSmallnessReduction.aux:0 0 vo_compile_time 11.625
UniMath/ModelCategories/Generated/.LNWFSClosed.aux:0 0 vo_compile_time 8.318
[day before: UniMath/ModelCategories/Generated/.GenericFreeMonoid.aux:0 0 vo_compile_time 7.726]
UniMath/ModelCategories/Generated/.FFMonoidalStructure.aux:0 0 vo_compile_time 7.498
UniMath/ModelCategories/Generated/.GenericFreeMonoidSequence.aux:0 0 vo_compile_time 6.606
UniMath/ModelCategories/Generated/.OneStepMonadSmall.aux:0 0 vo_compile_time 5.289
UniMath/ModelCategories/.NWFSisWFS.aux:0 0 vo_compile_time 2.510
UniMath/ModelCategories/.NWFS.aux:0 0 vo_compile_time 1.802
UniMath/ModelCategories/Generated/.LNWFSHelpers.aux:0 0 vo_compile_time 1.608
UniMath/ModelCategories/Generated/.LiftingWithClass.aux:0 0 vo_compile_time 0.796
UniMath/ModelCategories/Generated/.SmallObjectArgument.aux:0 0 vo_compile_time 0.518
UniMath/ModelCategories/.WFS.aux:0 0 vo_compile_time 0.479
UniMath/ModelCategories/.Lifting.aux:0 0 vo_compile_time 0.313
[day before: UniMath/ModelCategories/Generated/.MonoidalHelpers.aux:0 0 vo_compile_time 0.190]
UniMath/ModelCategories/.Retract.aux:0 0 vo_compile_time 0.182
UniMath/ModelCategories/.Helpers.aux:0 0 vo_compile_time 0.177
UniMath/ModelCategories/.ModelCategory.aux:0 0 vo_compile_time 0.173
UniMath/ModelCategories/.All.aux:0 0 vo_compile_time 0.155
UniMath/ModelCategories/.MorphismClass.aux:0 0 vo_compile_time 0.098
UniMath/ModelCategories/.WeakEquivalences.aux:0 0 vo_compile_time 0.082
```

**Review by rmatthes — APPROVED** [review]
Modulo the persisting whitespace pollution, most notably in LNWFSCocomplete.v.

**Comment by DenSinH** [comment]
> I did the experiment with the same setting but the current PR instead of the master branch. I only re-compiled. Here are the measurements in the same format. Only the top element would now qualify for the list posted above, and twenty files in the list have a longer compilation time.
> 
> ```
> UniMath/ModelCategories/Generated/.LNWFSMonoidalStructure.aux:0 0 vo_compile_time 242.097
> UniMath/ModelCategories/Generated/.LNWFSCocomplete.aux:0 0 vo_compile_time 112.157
> UniMath/ModelCategories/.Examples.aux:0 0 vo_compile_time 83.081
> UniMath/ModelCategories/Generated/.OneStepMonad.aux:0 0 vo_compile_time 25.676
> UniMath/ModelCategories/Generated/.LNWFSSmallnessReduction.aux:0 0 vo_compile_time 11.625
> UniMath/ModelCategories/Generated/.LNWFSClosed.aux:0 0 vo_compile_time 8.318
> [day before: UniMath/ModelCategories/Generated/.GenericFreeMonoid.aux:0 0 vo_compile_time 7.726]
> UniMath/ModelCategories/Generated/.FFMonoidalStructure.aux:0 0 vo_compile_time 7.498
> UniMath/ModelCategories/Generated/.GenericFreeMonoidSequence.aux:0 0 vo_compile_time 6.606
> UniMath/ModelCategories/Generated/.OneStepMonadSmall.aux:0 0 vo_compile_time 5.289
> UniMath/ModelCategories/.NWFSisWFS.aux:0 0 vo_compile_time 2.510
> UniMath/ModelCategories/.NWFS.aux:0 0 vo_compile_time 1.802
> UniMath/ModelCategories/Generated/.LNWFSHelpers.aux:0 0 vo_compile_time 1.608
> UniMath/ModelCategories/Generated/.LiftingWithClass.aux:0 0 vo_compile_time 0.796
> UniMath/ModelCategories/Generated/.SmallObjectArgument.aux:0 0 vo_compile_time 0.518
> UniMath/ModelCategories/.WFS.aux:0 0 vo_compile_time 0.479
> UniMath/ModelCategories/.Lifting.aux:0 0 vo_compile_time 0.313
> [day before: UniMath/ModelCategories/Generated/.MonoidalHelpers.aux:0 0 vo_compile_time 0.190]
> UniMath/ModelCategories/.Retract.aux:0 0 vo_compile_time 0.182
> UniMath/ModelCategories/.Helpers.aux:0 0 vo_compile_time 0.177
> UniMath/ModelCategories/.ModelCategory.aux:0 0 vo_compile_time 0.173
> UniMath/ModelCategories/.All.aux:0 0 vo_compile_time 0.155
> UniMath/ModelCategories/.MorphismClass.aux:0 0 vo_compile_time 0.098
> UniMath/ModelCategories/.WeakEquivalences.aux:0 0 vo_compile_time 0.082
> ```

This is more like what I expected, I will look at the white space issues

**Comment by DenSinH** [comment]
I think I got the rest of it

**Comment by rmatthes** [comment]
Maybe another small problem could be addressed: there is now a bunch of warnings concerning scope management (scope `morcls`). A similar problem existed for the `CategoryTheory` package (issue #1791) and was solved.

**Comment by DenSinH** [comment]
I don't really know how to fix that, as I am not really sure how to work with scopes at all (thats probably what caused the issues anyway)

**Comment by benediktahrens** [comment]
Since the consensus is that this PR is an improvement, I am merging it.
